US06599917B1
c) 2-Benzyl-6-(3-hydroxypropyl)3-methoxymethyloxypyridine
205 mg of aluminum lithium hydride was suspended in 20 ml of anhydrous ether. A solution of 10 ml of anhydrous ether containing 1.3 g of 2-benzyl-6-(2-ethoxycarbonylethyl)-3-methoxymethyloxypyridine was added dropwise under ice-cooling. After stirring for one hour as it was, 0.2 ml of water, then 0.2 ml of an aqueous 5N sodium hydroxide solution and then 0.6 ml of water were added thereto under ice-cooling. The reaction solution was filtered through filter paper to remove insoluble matters. After washing with ether, the organic phase was evaporated. The residue was subjected to silica gel column chromatography using 40% ethyl acetate/hexane as an eluent for separation and purification, to give 1.0 g of the target compound.

reactant | aluminum lithium hydride | 205 mg | [H-].[Li+].[Al+3].[H-].[H-].[H-]
reactant | 2-benzyl-6-(2-ethoxycarbonylethyl)-3-methoxymethyloxypyridine | C(C1=CC=CC=C1)C1=NC(=CC=C1OCOC)CCC(=O)OCC | C19H23NO4
reactant | water | 0.2 ml | O | H2O
reactant | sodium hydroxide | 5N | [OH-].[Na+]
reactant | water | 0.6 ml | O | H2O
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | ether | 10 ml, 1.3 g | CCOCC | C4H10O
product | 2-Benzyl-6-(3-hydroxypropyl)3-methoxymethyloxypyridine | 1.0 g | C(C1=CC=CC=C1)C1=NC(=CC=C1OCOC)CCCO | C17H21NO3
